US05342846
N-Benzyl-3-(1,2,3-triazol-1-yl)-pyrrolidine
A solution of N-benzyl-3-azido-pyrrolidine (1.5 g, 0.0074 mol) in acetone was taken in a steel bomb and cooled in dry ice/acetone bath. To this cold solution acetylene (2.5 mg, 0.096 mol) was added under N2 atmosphere. The sealed steel bomb was then heated in an oil bath at 75° C. for 20 h. The vessel was cooled again in dry ice/acetone bath and excess of acetylene released slowly, while the temperature rose to the room temperature (r.t.). The reaction mixture was concentrated to yellow-brown oil. Crude yield: 2.02 g. Crude compound was purified on silica gel column to obtain the title compound as a light yellow-brown oil. Yield: 1.02 g (60%). 1H NMR (CDCl3) δ: 2.0-3.3 (m, 6H), 3.7 (S, 2H), 5.3 (m, 1H), 7.45 (s, 5H), 7.8 (s, 1H), 7.95 (s, 1H).

reactant | N-benzyl-3-azido-pyrrolidine | 0.0074 mol, 1.5 g | C(C1=CC=CC=C1)N1CC(CC1)N=[N+]=[N-] | C11H14N4
reactant | acetylene | 0.096 mol, 2.5 mg | C#C | C2H2
solvent | acetone | CC(=O)C | C3H6O
solvent | dry ice acetone | C(=O)=O.CC(=O)C
product | N-Benzyl-3-(1,2,3-triazol-1-yl)-pyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)N1N=NC=C1 | C13H16N4
